US06329027B1
A solution of 12.0 g (31.2 mmol) of ethyl=5-(3-chloro-5-fluoro-4-trifluoromethylphenyl)-5-hydroxy-2-propylpentanoate [prepared by reacting 3-propyl-5-formylpentanoic acid with 3-chloro-5-fluoro-4-trifluromethylphenylmagnesium bromide], 25 ml of a concentrated hydrochloric acid, and 100 ml of ethanol was heated at 50° C. while being stirred for 3 hours. To the reaction solution was added 50 ml of toluene, and the organic layer thus obtained was washed with a diluted aqueous sodium bicarbonate solution thrice and water thrice, and then dried over anhydrous magnesium sulfate. The solvent was distilled off under a reduced pressure and the residue was subjected to silica gel chromatography (eluent: heptane/toluene=1/1) to obtain 7.7 g of a crude 6-(3-chloro-5-fluoro-4-trifluoromethylphenyl)-3-propyltetrahydro-2-pyrone. (Yield: 73.3%)

reactant | 5-(3-chloro-5-fluoro-4-trifluoromethylphenyl)-5-hydroxy-2-propylpentanoate | ClC=1C=C(C=C(C1C(F)(F)F)F)C(CCC(C(=O)[O-])CCC)O
reactant | hydrochloric acid | 25 ml | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 6-(3-chloro-5-fluoro-4-trifluoromethylphenyl)-3-propyltetrahydro-2-pyrone | 7.7 g, Yield: 73.3% | ClC=1C=C(C=C(C1C(F)(F)F)F)C1CCC(C(O1)=O)CCC | C15H15ClF4O2
